US05914339
To a stirred solution of 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-isopropyl ester hydrochloride salt (3.0 g, 5.53 mmol) and 20 mL of i-PrOH was added was added 1N NaOH (11.1 mL, 11.1 mmol). After stirring at 23° C. for 3 days, the mixture was concentrated to dryness, dissolved in 10% MeOH/CH2Cl2, and filtered through a small pad of silica gel. The filtrate was concentrated to a colorless gum, and triturated with Et2O to give 1.0 g (39%) of 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid isopropyl ester as a white solid; 1H NMR (300 MHz, CDCl3): δ 0.93 (d, J=6.1 Hz, 3H), 1.17 (d, J=6.3 Hz, 6H), 2.30-2.53 (m, 2H), 2.67-2.80 (m, 2H), 2.85-3.00 (m, 1H), 4.65-4.75 (brs, 1H), 4.91 (hept, J=6.3 Hz, 1H), 6.52-6.80 (complexm, 3H), 7.17-7.45 (complexm, 4H); MS (ES) m/z (relative intensity): 464 (M+, 100).

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-isopropyl ester hydrochloride salt | 5.53 mmol, 3.0 g | Cl.C(C)(C)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OC(C)C
reactant | NaOH | 11.1 mmol, 1N, 11.1 mL | [OH-].[Na+]
solvent | i-PrOH | 20 mL | CC(C)O | C3H8O
product | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid isopropyl ester | 1.0 g, 39% | C(C)(C)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)O | C23H26ClNO7
